US08119627B2
Piperidine-4-carboxylic acid [2-(3,5-dichloro-phenoxy)-phenyl]-amide HVB01044 C19H19F3N2O2, MW 364.37
4-[2-(3,5-Dichloro-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester (HVB01036, HVB01039 HVB01042, 1.09 g, 2.3 mmol) was dissolved in HCl/dioxane (4M, 18 ml), and stirred at room temperature for 1 h. The reaction mixture was evaporated to dryness, diluted with DCM (20 ml) and neutralised with sodium hydroxide (1M). Extracted with DCM, organic layers dried over anhydrous magnesium sulphate, and evaporated in-vacuo, 183 mg, 21%. m.p. 138-139° C., Rf. 0.3 (10% Methanol/DCM), 1HNMR (CDCl3, 270 MHz) δ 1.65 (3H, m, CH2 and NH), 1.86 (2H, m, CH2), 2.36 (1H, m, CH), 2.65 (2H, td, J=2.7, 9.6 Hz, NCH2), 3.16 (2H, m, NCH2), 6.89 (2H, d, J=1.7 Hz, ArHE, ArHG), 6.90 (1H, m, ArHD), 7.06 (1H, td, J=1.5, 7.4 Hz, ArHB), 7.12 (1H, t, J=1.7 Hz, ArHF), 7.18 (1H, td, J=8.2, 1.46 Hz, ArHC), 7.55 (1H, s, NH), 8.43 (1H, dd, J=8.2 Hz, ArHA).

reactant | 4-[2-(3,5-Dichloro-phenoxy)-phenylcarbamoyl]-piperidine-1-carboxylic acid tert-butyl ester | 2.3 mmol, 1.09 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)OC1=CC(=CC(=C1)Cl)Cl)=O | C23H26Cl2N2O4
solvent | HCl dioxane | 4M, 18 ml | Cl.O1CCOCC1
product | Piperidine-4-carboxylic acid [2-(3,5-dichloro-phenoxy)-phenyl]-amide | ClC=1C=C(OC2=C(C=CC=C2)NC(=O)C2CCNCC2)C=C(C1)Cl | C18H18Cl2N2O2
